US07897737B2
Under a nitrogen atmosphere, a mixture of 2′-deoxyuridine dU (2.5 g, 10.95 mmol), TBSCl (7.26 g, 48.2 mmol) and imidiazole (6.56 g, 96.4 mmol) in anhydrous DMF (25 mL) was stirred at 0° C. for two hours and then warmed to room temperature over one hour. The reaction mixture was concentrated in vacuo and purified by silica gel column chromatography to yield 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyuridine dC.11 (4.62 g, 92%) as a white foam.

reactant | 2′-deoxyuridine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | TBSCl | 48.2 mmol, 7.26 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 3′,5′-O-bis-tert-butyldimethylsilyl-2′-deoxyuridine | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)O | C21H40N2O5Si2
